* 
* Linear Technology OP215A op amp model (with calls for OP215E)
* Written: 05-10-1990 18:44:02 Type: PFET input, internal comp.
* Typical specs: 
* Vos=2.0E-04, Ib=1.5E-11, Ios=1.0E-11, GBP=5.7E+06Hz, Phase mar.= 45 deg, 
* SR(low)=1.5E+01V/us, SR(high)=3.0E+01V/us, Av=112.0dB, CMRR=100.0dB, 
* Vsat(+)=2.0V, Vsat(-)=2.0V, Isc=+/-25mA, Rout= 100ohms, Iq= 2mA.
* (input cm clamp *optional*)
* 
* Connections: + - V+V-O 
.SUBCKT OP215A 3 2 7 4 6 
* INPUT
VCM2 40 4 2.0000E+00
RD1 40 80 9.3073E+02
RD2 40 90 9.3073E+02
J1 80 102 12 JM1 
J2 90 103 12 JM2 
CIN 2 3 4.0000E-12
RG1 2 102 2.0000E+00
RG2 3 103 2.0000E+00
** CM CLAMP 
* DCM1 107 103 DM4 
* DCM2 105 107 DM4 
* VCMC 105 4 4.0E+00
* ECMP 106 4 103 4 1 
* RCMP 107 106 1E+04
* DCM3 109 102 DM4 
* DCM4 105 109 DM4 
* ECMN 108 4 102 4 1 
* RCMN 109 108 1E+04
** END CM CLAMP 
C1 80 90 1.5000E-11
ISS 7 12 6.0000E-04
GOSIT 7 12 90 80 3.0000E-04
* INTERMEDIATE 
GCM 0 8 12 0 1.0744E-08
GA 8 0 80 90 1.0744E-03
R2 8 0 1.0000E+05
C2 1 8 3.0000E-11
GB 1 0 8 0 3.7427E+01
RO2 1 0 9.9000E+01
* OUTPUT 
RSO 1 6 1.0000E+00
ECL 18 0 1 6 2.0925E+01
GCL 0 8 20 0 1.0000E+00
RCL 20 0 1.0000E+03
D1 18 20 DM1 
D2 20 18 DM1 
* 
D3A 131 70 DM3 
D3B 13 131 DM3 
GPL 0 8 70 7 1.0000E+00
VC 13 6 3.1615E+00
RPLA 7 70 1.0000E+04
RPLB 7 131 1.0000E+05
D4A 60 141 DM3 
D4B 141 14 DM3 
GNL 0 8 60 4 1.0000E+00
VE 6 14 3.1615E+00
RNLA 60 4 1.0000E+04
RNLB 141 4 1.0000E+05
* 
IP 7 4 1.3000E-03
DSUB 4 7 DM2 
* MODELS 
.MODEL JM1 PJF (IS=2.0000E-11 BETA=9.6199E-04 VTO=-1.000000E+00)
.MODEL JM2 PJF (IS=1.0000E-11 BETA=9.6199E-04 VTO=-9.998000E-01)
.MODEL DM1 D (IS=1.0000E-15)
.MODEL DM2 D (IS=8.0000E-16 BV=5.2800E+01)
.MODEL DM3 D (IS=1.0000E-16)
.MODEL DM4 D (IS=1.0000E-09)
.ENDS OP215A
* 
.SUBCKT OP215E 3 2 7 4 6 
X_OP215E 3 2 7 4 6 OP215A
.ENDS OP215E
* 
* - - - - - * FINI OP215A FAMILY * - - - - - * [OAMM VJ02 05/08/90]
***
*         (C) COPYRIGHT LINEAR TECHNOLOGY CORPORATION 1990
*                       All rights reserved.
* 
*   Linear Technology Corporation hereby grants the users of this
* macromodel a non-exclusive, nontransferrable license to use this
*            macromodel under the following conditions:
* 
* The user agrees that this macromodel is licensed from Linear
* Technology and agrees that the macromodel may be used, loaned,
* given away or included in other model libraries as long as this
* notice and the model in its entirety and unchanged is included.
* No right to make derivative works or modifications to the
* macromodel is granted hereby.  All such rights are reserved.
* 
* This model is provided as is.  Linear Technology makes no
* warranty, either expressed or implied about the suitability or
* fitness of this model for any particular purpose.  In no event
* will Linear Technology be liable for special, collateral,
* incidental or consequential damages in connection with or arising
* out of the use of this macromodel.  It should be remembered that
* models are a simplification of the actual circuit.
* 
* Linear Technology reserves the right to change these macromodels
* without prior notice.  Contact Linear Technology at 1630 McCarthy
* Blvd., Milpitas, CA, 95035-7487 or telephone 408/432-1900 for
* datasheets on the actual amplifiers or the latest macromodels.
* 
* ----------------------------------------------------------------------- *
